US07541374B2
1.04 g of 4-{[dichlorofluoromethyl]thio}-1-(4-methoxybenzyl)-1H-pyrazole was dissolved to 6 ml of trifluoroacetic acid, followed by stirring at 65° C. for 3 hours. After the reaction mixture was cooled to room temperature, it was added to saturated aqueous solution of sodium hydrogen carbonate. The mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.19 g of 4-{[dichlorofluoromethyl]thio}-1H-pyrazole.

reactant | 4-{[dichlorofluoromethyl]thio}-1-(4-methoxybenzyl)-1H-pyrazole | 1.04 g | ClC(SC=1C=NN(C1)CC1=CC=C(C=C1)OC)(F)Cl | C12H11Cl2FN2OS
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-{[dichlorofluoromethyl]thio}-1H-pyrazole | 0.19 g | ClC(SC=1C=NNC1)(F)Cl | C4H3Cl2FN2S
